.SUBCKT 3input0x3C_X2 A1 A2 A3 VDD VSS Y
MM3 n1 A2 VDD VDD pmos_rvt w=92.0n l=16n nfin=4
MM2 nor2 A1 n1 VDD pmos_rvt w=92.0n l=16n nfin=4
MM1 nor2 A2 VSS VSS nmos_rvt w=92.0n l=16n nfin=4
MM0 nor2 A1 VSS VSS nmos_rvt w=92.0n l=16n nfin=4
MM4 n2 A1 VDD VDD pmos_rvt w=92.0n l=16n nfin=4
MM5 n2 A2 VDD VDD pmos_rvt w=92.0n l=16n nfin=4
MM6 n2 nor2 Y VDD pmos_rvt w=92.0n l=16n nfin=4
MM7 VDD A3 Y VDD pmos_rvt w=92.0n l=16n nfin=4
MM8 n3 A1 VSS VSS nmos_rvt w=92.0n l=16n nfin=4
MM9 n3 A2 n4 VSS nmos_rvt w=92.0n l=16n nfin=4
MM10 n4 nor2 VSS VSS nmos_rvt w=92.0n l=16n nfin=4
MM11 n4 A3 Y VSS nmos_rvt w=92.0n l=16n nfin=4
.ENDS
