.SUBCKT 3input0x1D_X1_DH_N A1 A2 A3 VDD VSS Y
MM5 VSS A1 nor3 VSS nmos_rvt w=46.0n l=16n nfin=2
MM4 VSS A2 nor3 VSS nmos_rvt w=46.0n l=16n nfin=2
MM3 VSS A3 nor3 VSS nmos_rvt w=46.0n l=16n nfin=2
MM2 n2 A2 nor3 VDD pmos_rvt w=46.0n l=16n nfin=2
MM1 n1 A3 n2 VDD pmos_rvt w=46.0n l=16n nfin=2
MM0 VDD A1 n1 VDD pmos_rvt w=46.0n l=16n nfin=2
MM9 n3 A1 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM8 nand2 A2 n3 VSS nmos_rvt w=46.0n l=16n nfin=2
MM7 nand2 A2 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM6 nand2 A1 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM10 VDD A2 n4 VDD pmos_rvt w=46.0n l=16n nfin=2
MM11 n5 A1 n4 VDD pmos_rvt w=46.0n l=16n nfin=2
MM12 n5 A3 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM13 n5 nand2 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM14 n5 nor3 Y VDD pmos_rvt w=46.0n l=16n nfin=2
MM15 Y nor3 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM16 n6 A3 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM17 n7 nand2 n6 VSS nmos_rvt w=46.0n l=16n nfin=2
MM18 n7 A1 Y VSS nmos_rvt w=46.0n l=16n nfin=2
MM19 n7 A2 Y VSS nmos_rvt w=46.0n l=16n nfin=2
.ENDS
