.SUBCKT 4input0x1EF0_X1 A B C D VDD VSS Y
* Canonical: 0b0000011111111000
* Function: Y = binate [recursive NAND/NOR, 16 TR]
* Transistors: 16
MbdhP1 npbdh0 B VDD VDD pmos_rvt W=46.0n L=16n nfin=2
MbdhP2 bdh C npbdh0 VDD pmos_rvt W=46.0n L=16n nfin=2
MbdhP3 bdh D npbdh0 VDD pmos_rvt W=46.0n L=16n nfin=2
MP121 bdcg A VDD VDD pmos_rvt W=46.0n L=16n nfin=2
MP122 bdcg bdh VDD VDD pmos_rvt W=46.0n L=16n nfin=2
MbdccP0 Y bdcg VDD VDD pmos_rvt W=46.0n L=16n nfin=2
MbdccP2 npbdcc1 bdh VDD VDD pmos_rvt W=46.0n L=16n nfin=2
MbdccP3 Y A npbdcc1 VDD pmos_rvt W=46.0n L=16n nfin=2
MbdhN0 bdh B VSS VSS nmos_rvt W=46.0n L=16n nfin=2
MbdhN2 bdh C nsbdh1 VSS nmos_rvt W=46.0n L=16n nfin=2
MbdhN3 nsbdh1 D VSS VSS nmos_rvt W=46.0n L=16n nfin=2
MN123 bdcg A bdcgs0 VSS nmos_rvt W=46.0n L=16n nfin=2
MN124 bdcgs0 bdh VSS VSS nmos_rvt W=46.0n L=16n nfin=2
MbdccN1 Y bdcg nsbdcc0 VSS nmos_rvt W=46.0n L=16n nfin=2
MbdccN2 nsbdcc0 bdh VSS VSS nmos_rvt W=46.0n L=16n nfin=2
MbdccN3 nsbdcc0 A VSS VSS nmos_rvt W=46.0n L=16n nfin=2
.ENDS
