.SUBCKT 3input0x8E_X1 A1 A2 A3 VDD VSS Y
MM5 na1 A1 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM4 na1 A1 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM8 VDD na1 n2 VDD pmos_rvt w=46.0n l=16n nfin=2
MM9 VDD A3 n2 VDD pmos_rvt w=46.0n l=16n nfin=2
MM6 Y A2 n2 VDD pmos_rvt w=46.0n l=16n nfin=2
MM7 VDD A3 n1 VDD pmos_rvt w=46.0n l=16n nfin=2
MM3 Y na1 n1 VDD pmos_rvt w=46.0n l=16n nfin=2
MM10 n3 na1 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM2 n3 A3 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM11 n3 A2 Y VSS nmos_rvt w=46.0n l=16n nfin=2
MM12 n3 A3 n4 VSS nmos_rvt w=46.0n l=16n nfin=2
MM13 Y na1 n4 VSS nmos_rvt w=46.0n l=16n nfin=2
.ENDS
